US07820680B2
To a cold (−78° C.) solution of 1-tert-butyloxycarbonyl-cis-2-{[methoxy(methyl)amino]carbonyl}-5-phenylpyrrolidine (1.36 g, 4.07 mmol) in THF (20 mL) under an atmosphere of nitrogen, a 1M solution of LAH in THF (4.07 mL, 4.07 mmol) was added dropwise and the mixture was stirred for 30 min. The mixture was warmed to 0° C. for 30 min and then quenched with potassium bisulfate solution in water (0.969 g, 7.12 mmol). EtOAc was added and the organic phase was separated, washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with a 50:50 mixture of ethyl acetate and hexane. Collection and concentration of appropriate fractions provided 1-tert-butyloxycarbonyl-cis-2-formyl-5-phenylpyrrolidine. HPLC RT=3.47 min, 99% at 215 nm (Method A); ES MS (M+H)=276.3.

reactant | 1-tert-butyloxycarbonyl-cis-2-{[methoxy(methyl)amino]carbonyl}-5-phenylpyrrolidine | 4.07 mmol, 1.36 g | C(C)(C)(C)OC(=O)N1[C@H](CC[C@H]1C1=CC=CC=C1)C(=O)N(C)OC | C18H26N2O4
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | potassium bisulfate | S([O-])(O)(=O)=O.[K+]
reactant | water | 7.12 mmol, 0.969 g | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 4.07 mmol, 4.07 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-tert-butyloxycarbonyl-cis-2-formyl-5-phenylpyrrolidine | C(C)(C)(C)OC(=O)N1[C@H](CC[C@H]1C1=CC=CC=C1)C=O | C16H21NO3
